US07468391B2
8-acetyl-6-bromo-2,2,4,4-tetramethyl chroman (Intermediate 15A)
A stirred, cooled (−78° C.) solution of 6-bromo-2,2,4,4-tetramethyl chroman (1 g, 3.72 mol) in anhydrous dichloromethane (10 mol) was treated with aluminum chloride (0.8 g, 6.8 mol) followed by acetyl chloride (0.4 mol, 6.08 mol). After 10 minutes, the reaction mixture was diluted with water and extracted with diethyl ether. The organic phase was washed with water, and dried over anhydrous sodium sulfate, filtered and evaporated to a residue that was subjected to flash column chromatography on silica gel (230-400 mesh) using 10% ethyl acetate in hexane as the eluent to afford the title compound as a solid (0.78 g, 67%).

reactant | 6-bromo-2,2,4,4-tetramethyl chroman | 3.72 mol, 1 g | BrC=1C=C2C(CC(OC2=CC1)(C)C)(C)C | C13H17BrO
reactant | dichloromethane | 10 mol | ClCCl | CH2Cl2
reactant | aluminum chloride | 6.8 mol, 0.8 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 0.4 mol | C(C)(=O)Cl | C2H3ClO
solvent | water | O | H2O
product | 8-acetyl-6-bromo-2,2,4,4-tetramethyl chroman | 0.78 g, 67% | C(C)(=O)C=1C=C(C=C2C(CC(OC12)(C)C)(C)C)Br | C15H19BrO2
